US04233216
(B) Diphenylmethyl α-[4(R)-acetonyloxy-3(R)phenylacetamido-2-oxo-azetidin-1-yl]glyoxalate
To a solution of diphenylmethyl α-[4(R)-acetonyloxy-3(R)-phenylacetamido-2-oxo-azetidin-1-yl]-α-isopropylideneacetate (2.342 g; 4.33 mmoles) in methylene chloride (40 ml) is introduced ozonized oxygen for 25 minutes at -78° C. Excess ozone is purged with nigrogen gas, and the mixture is mixed with dimethyl sulfide (3 ml), and stirred at -78° C. for 30 minutes, and at room temperature for 30 minutes. The reaction mixture is mixed with three drops of acetic acid, washed with water, dried over sodium sulfate, and evaporated under reduced pressure to give the product.

reactant | diphenylmethyl α-[4(R)-acetonyloxy-3(R)-phenylacetamido-2-oxo-azetidin-1-yl]-α-isopropylideneacetate | 4.33 mmoles, 2.342 g | C(C(=O)C)O[C@@H]1[C@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)C)=O)NC(CC1=CC=CC=C1)=O | C32H32N2O6
reactant | oxygen | O=O | O2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | Diphenylmethyl α-[4(R)-acetonyloxy-3(R)phenylacetamido-2-oxo-azetidin-1-yl]glyoxalate | C(C(=O)C)O[C@@H]1[C@H](C(N1C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)NC(CC1=CC=CC=C1)=O | C29H26N2O7
